* Z:\mnt\design.r\spice\examples\3260.asc
XU1 IN N008 N006 N007 OUT- N005 N003 N001 IN OUT+ IN 0 N002 N004 0 LTC3260
R1 N008 0 200K
C1 N005 0 10µ Rser=5m
C2 N001 N003 1µ Rser=10m
V1 IN 0 15
R2 OUT+ N002 909K
R3 N002 0 100K
C3 N004 0 10n
C5 OUT+ 0 10µ Rser=5m
Rload+ OUT+ 0 240
R5 OUT- N007 909K
R6 N007 0 100K
C6 OUT- 0 10µ Rser=5m
Rload- OUT- 0 240
C4 N006 0 10n
.tran 10m startup
.lib LTC3260.sub
.backanno
.end
